US05424005
4-n-Hexyloxybiphenyl carboxylic acid (3.0 g) and an excessive amount of thionyl chloride were heated under refluxing for 6 hours. Unaltered thionyl chloride was distilled off to obtain 4-n-hexyloxybiphenyl carboxylic acid chloride.

reactant | 4-n-Hexyloxybiphenyl carboxylic acid | 3.0 g | C(CCCCC)OC=1C=C(C(=CC1)C1=CC=CC=C1)C(=O)O | C19H22O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 4-n-hexyloxybiphenyl carboxylic acid chloride | C(CCCCC)OC=1C=C(C(=CC1)C1=CC=CC=C1)C(=O)Cl | C19H21ClO2
